US07691850B2
b) (1,1-dimethylethyl(3S,4S)-3-hydroxy-4-{[(trifluoroacetyl)amino]methyl}-1-pyrrolidinecarboxylate
1,1-dimethylethyl(3S,4S)-3-(aminomethyl)-4-hydroxy-1-pyrrolidinecarboxylate (0.238 g, 1.10 mmol) was dissolved in methylene chloride (10 mL). Triethylamine (0.322 mL, 2.31 mmol), trifluoroacetic anhydride (0.163 mL, 1.16 mmol), and DMAP (0.013 g, 0.11 mmol) were added and the reaction stirred at ambient temperature for 5 hours. The reaction was quenched with water and extracted 3× with methylene chloride. The solution was dried over Na2SO4, and evaporated. This was chromatographed on silica gel to yield a white solid (0.193 g, 56%). LCMS: m/z 313.4 (MH+).

reactant | 1,1-dimethylethyl(3S,4S)-3-(aminomethyl)-4-hydroxy-1-pyrrolidinecarboxylate | 1.10 mmol, 0.238 g | NC[C@H]1CN(C[C@H]1O)C(=O)OC(C)(C)C | C10H20N2O3
reactant | Triethylamine | 2.31 mmol, 0.322 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 1.16 mmol, 0.163 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.11 mmol, 0.013 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1,1-dimethylethyl(3S,4S)-3-hydroxy-4-{[(trifluoroacetyl)amino]methyl}-1-pyrrolidinecarboxylate | 0.193 g, 56% | O[C@@H]1CN(C[C@@H]1CNC(C(F)(F)F)=O)C(=O)OC(C)(C)C | C12H19F3N2O4
